US04332611
2-(Hydroxymethyl)-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide
The crude 2-(acetoxymethyl)-N-[(4,6-dichloro-1,3,5-triazinyl)aminocarbonyl]benzenesulfonamide was treated with methanol (10 ml) and then with a solution of sodium methoxide (14 mmol) in methanol. The mixture was stirred at room temperature for 1.5 hour and evaporated. The residue was taken up in water and filtered. The filtrate was acidified and filtered to give 0.45 g of gummy solid which was recrystallized from a chloroform/acetone mixture to give 115 mg of white solid, m.p. 146°-148°(dec.). 'H NMR δDMSO-d6 12.2(brd s, 1H), 10.73 (s, 1H), 8.00-7.15 (m,4H), 4.80 (s and ~4.9-4.2 (brd s), 3H) 3.90 (s, 6H), consistent with the assigned structure.

reactant | 2-(acetoxymethyl)-N-[(4,6-dichloro-1,3,5-triazinyl)aminocarbonyl]benzenesulfonamide | C(C)(=O)OCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)Cl)Cl | C13H11Cl2N5O5S
reactant | sodium methoxide | 14 mmol | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 10 ml | CO | CH4O
product | 2-(Hydroxymethyl)-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide | 0.45 g | OCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OC | C13H15N5O6S
